US07659297B2
4-(4-Chloro-3-fluoro-2-methoxyphenyl)-4-methyl-2-oxo-pentanoic acid ethyl ester
5.44 g (18.84 mmol) of 4-(4-chloro-3-fluoro-2-methoxyphenyl)-4-methyl-2-oxo-pentanoic acid is dissolved in 117 ml of ethanol, mixed with 2.1 ml of concentrated sulfuric acid, and refluxed for six hours. The reaction mixture is added to 250 ml of saturated sodium bicarbonate solution, and extracted three times with ethyl acetate. The combined organic extracts are washed with saturated sodium bicarbonate solution and with brine. After drying, and after the dessicant is filtered off and the solvent is spun in, 5.19 g (87%) of the desired compound is obtained.

reactant | 4-(4-chloro-3-fluoro-2-methoxyphenyl)-4-methyl-2-oxo-pentanoic acid | 18.84 mmol, 5.44 g | ClC1=C(C(=C(C=C1)C(CC(C(=O)O)=O)(C)C)OC)F | C13H14ClFO4
reactant | sulfuric acid | 2.1 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | 250 ml | C([O-])(O)=O.[Na+]
reactant | ethanol | 117 ml | C(C)O | C2H6O
product | 4-(4-Chloro-3-fluoro-2-methoxyphenyl)-4-methyl-2-oxo-pentanoic acid ethyl ester | C(C)OC(C(CC(C)(C)C1=C(C(=C(C=C1)Cl)F)OC)=O)=O | C15H18ClFO4
